US09084794B2
d) Methyl 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetate
A solution of methyl 2-bromo-2-(4-bromo-2-fluorophenyl)acetate (7.29 mmol) in N,N-dimethylformamide (30 mL) was treated with potassium carbonate (19.90 mmol) and 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (8.31 mmol). The reaction was stirred at room temperature for two days. The reaction solution was diluted with water (200 mL) and was extracted three times with ethyl acetate. The combined organic layers were washed five times with water and three times with brine. The organic solution was dried over sodium sulfate, filtered and concentrated in vacuo. The resulting semi-solid was diluted with dichloromethane (10 mL) and was concentrated to dryness in vacuo. This was repeated twice, at which point the resulting solid was dried under high vacuum overnight, affording the title compound as a white solid (3.05 g, 87% yield). MS(ES)+ m/e 454.8/456.9 [M+H]+ (bromide isotope pattern).

reactant | methyl 2-bromo-2-(4-bromo-2-fluorophenyl)acetate | 7.29 mmol | BrC(C(=O)OC)C1=C(C=C(C=C1)Br)F | C9H7Br2FO2
reactant | potassium carbonate | 19.90 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 8.31 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | Methyl 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetate | 3.05 g, 87% yield | BrC1=CC(=C(C=C1)C(C(=O)OC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C20H24BrFN2O4
